US05866573
Step D: 3-(4-Methoxybenzylamino)-5-chloro-6-methyl-1-carboxymethylpyrazinone
4-Methoxybenzylamine (0.83 ml, 6.33 mmol) was added to a stirred solution of 3,5-dichloro-6-methyl-1-carboxymethylpyrazinone (0.50 g, 2.11 mmol) in dioxane (6 ml) and the resulting mixture was warmed to 60° C. After 16 h the reaction mixture was partitioned between chloroform and 10% citric acid solution and the organic layer was dried (Na2SO4) and evaporated in vacuo. The crude product was purified by flash column chromatography (eluting with 2% methanol/chloroform/2% acetic acid) to give after azeotroping dry with toluene/methanol the title compound as a white solid:

reactant | 4-Methoxybenzylamine | 6.33 mmol, 0.83 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 3,5-dichloro-6-methyl-1-carboxymethylpyrazinone | 2.11 mmol, 0.50 g | ClC=1C(N(C(=C(N1)Cl)C)CC(=O)O)=O | C7H6Cl2N2O3
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Methoxybenzylamino)-5-chloro-6-methyl-1-carboxymethylpyrazinone | COC1=CC=C(CNC=2C(N(C(=C(N2)Cl)C)CC(=O)O)=O)C=C1 | C15H16ClN3O4
